US07442717B2
(2,6-Dichlorophenyl)(4-methyl-5-phenyl-1H-imidazol-2-yl)amine hydrochloride
1-Amino-1-phenylacetone hydrochloride (189 mg), 2,6-dichlorophenylcyanamide (187 mg, prepared as described in J. Med. Chem., 1975, 18, 90-99) and triethylamine (101 mg) were kept at the reflux temperature in ethanol (10 ml) for 3 hours. Cooling was followed by drying in vacuo and purification by preparative HPLC. The product-containing fractions were combined, the acetonitrile was stripped in a rotary evaporator, and the aqueous residue was neutralized with potassium carbonate and extracted three times with ethyl acetate. Drying over magnesium sulfate was followed by evaporation to dryness and, after addition of hydrochloric acid, freeze drying. 26 mg of the title compound were obtained.

reactant | 1-Amino-1-phenylacetone hydrochloride | 189 mg | Cl.NC(C(=O)C)C1=CC=CC=C1
reactant | 2,6-dichlorophenylcyanamide | 187 mg | ClC1=C(C(=CC=C1)Cl)NC#N | C7H4Cl2N2
reactant | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (2,6-Dichlorophenyl)(4-methyl-5-phenyl-1H-imidazol-2-yl)amine hydrochloride | 26 mg | Cl.ClC1=C(C(=CC=C1)Cl)NC=1NC(=C(N1)C)C1=CC=CC=C1 | InChI=1S/C16H13Cl2N3.ClH/c1-10-14(11-6-3-2-4-7-11)20-16(19-10)21-15-12(17)8-5-9-13(15)18;/h2-9H,1H3,(H2,19,20,21);1H
